US07531532B2
N-{4-[2-(3,3-Dimethylureido)pyridin-4-yloxy]phenyl}-N′-(4-fluorophenyl)malonamide
1-[4-(4-Aminophenoxy)pyridin-2-yl]-3,3dimethylurea (30 mg) was dissolved in N,N-dimethylformamide (1 ml) under a nitrogen atmosphere, and then N-(4-fluorophenyl)malonic acid (65.1 mg), triethylamine (0.046 ml) and (1H-1,2,3-benzotriazol-1-yloxy)[tri(dimethylamino)]phosphonium hexafluorophosphate (146 mg) were added thereto at 50° C., followed by stirring at the same temperature for 1.5 hr. The reaction mixture was cooled down to room temperature, and partitioned between ethyl acetate and a 1 N aqueous solution of sodium hydroxide. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, a saturated aqueous solution of ammonium chloride, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; hexane:ethyl acetate=1:5 to 1:8). Fractions containing the target compound were concentrated to give a residue, to which diethyl ether (2 ml)-hexane (2 ml) was added to suspend. The solid was filtered off and dried under aeration to provide the titled compound (43.4 mg, 87.4%) as a white solid.

reactant | 1-[4-(4-Aminophenoxy)pyridin-2-yl]-3,3dimethylurea | 30 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N(C)C)C=C1 | C14H16N4O2
reactant | triethylamine | 0.046 ml | C(C)N(CC)CC | C6H15N
reactant | (1H-1,2,3-benzotriazol-1-yloxy)[tri(dimethylamino)]phosphonium hexafluorophosphate | 146 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diethyl ether | 2 ml | C(C)OCC | C4H10O
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | hexane | 2 ml | CCCCCC | C6H14
product | N-{4-[2-(3,3-Dimethylureido)pyridin-4-yloxy]phenyl}-N′-(4-fluorophenyl)malonamide | 43.4 mg, 87.4% | CN(C(NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(CC(=O)NC1=CC=C(C=C1)F)=O)=O)C | C23H22FN5O4
